US06515011B2
To a stirred solution of 2-(1-tert-butylsulfinamidylethyl)-5-chlorobenzyl alcohol from the previous step (isomer 1, 0.410 g, 1.42 mmol) in MeOH (5 mL) at ambient temperature was added 4M HCl in dioxane (0.71 mL, 2.8 mmol). The resulting solution was stirred at ambient temperature for 0.5 h, then concentrated in vacuo. The residue was partitioned between EtOAc and water basicified to pH=8 with saturated NaHCO3 solution. The EtOAc layer was separated, dried over anhydrous Na2SO4, and filtered. The filtrate solvent was removed under reduced pressure. 2-(1-aminoethyl)-5-chlorobenzyl alcohol was obtained as a pink oil that crystallized on sitting (0.2 g; HPLC RT=2.06 min, method A; 1H NMR, 400 MHz, CDCl3, 7.3 ppm (s, 1H), 7.28 ppm (d, 1H), 7.22 ppm (d, 1H), 4.73 ppm (d, 1H), 4.45 ppm (d, 1H), 4.3 ppm (m, 1H), 1.52 ppm (d, 3H).

reactant | 2-(1-tert-butylsulfinamidylethyl)-5-chlorobenzyl alcohol | C(C)(C)(C)S(=O)NC(C)C1=C(CO)C=C(C=C1)Cl | C13H20ClNO2S
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 2.8 mmol, 0.71 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(1-aminoethyl)-5-chlorobenzyl alcohol | NC(C)C1=C(CO)C=C(C=C1)Cl | C9H12ClNO
